US08084398B2
To a methanol (15 ml) solution of ethyl 2,4-dichloro-3-[2-(1H-tetrazol-1-yl)ethoxy]benzoate (0.88 g) were added sodium hydroxide (0.16 g) and water (5 ml), and the mixture was stirred at room temperature for 7 hours. After the addition of water (20 ml) and concentration at reduced pressure, an aqueous sodium hydroxide solution was added and the mixture was washed with ethyl acetate (50 ml). The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off to obtain the desired 2,4-dichloro-3-[2-(1H-tetrazol-1-yl)ethyloxy]-benzoic acid (0.69 g).

reactant | methanol | 15 ml | CO | CH4O
reactant | ethyl 2,4-dichloro-3-[2-(1H-tetrazol-1-yl)ethoxy]benzoate | 0.88 g | ClC1=C(C(=O)OCC)C=CC(=C1OCCN1N=NN=C1)Cl | C12H12Cl2N4O3
reactant | sodium hydroxide | 0.16 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 2,4-dichloro-3-[2-(1H-tetrazol-1-yl)ethyloxy]-benzoic acid | 0.69 g | ClC1=C(C(=O)O)C=CC(=C1OCCN1N=NN=C1)Cl | C10H8Cl2N4O3
